US04703046
4-Nitrobenzyl 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 2.65 g.) was add to a mixture of tetrahydrofuran (110 ml.) and methanol (80 ml.). To the solution was added a suspension of 10% palladium on carbon (1.5 g.) in acetic acid (10 ml.) and the mixture was subjected to catalytic hydrolysis at room temperature under ordinal pressure. The reaction mixture was filtered and washed with tetrahydrofuran. The filtrate and washings were combined and evaporated in vacuo. Ethyl acetate was added to the residue, adjusted to pH 7.5 with saturated aqueous sodium bicarbonate and filtered. The aqueous layer was separated and washed with ethyl acetate. 100 ml. of 20% Isopropyl alcohol in ethyl acetate was added to the aqueous solution and adjusted to pH 2.0 with 6N-hydrochloric acid. The mixture was saturated with sodium chloride and the organic layer was separated. The remaining aqueous layer was extracted with a mixture (100 ml. and 50 ml.) of ethyl acetate and isopropyl alcohol (4:1). The organic layer and the extracts were combined, washed with a small amount of saturated aqueous sodium chloride, dried over magnesium sulfate, treated with activated charcoal and then evaporated in vacuo. The residue was pulverized with diisopropyl ether and the precipitates were collected by filtration, washed with diisopropyl ether and dried to give 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.8 g.).

reactant | 4-Nitrobenzyl 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 2.65 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC)Br | C21H17BrN6O8S2
reactant | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
reactant | methanol | 80 ml | CO | CH4O
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.8 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC)Br | C14H12BrN5O6S2
